US04281019
To a warm mixture of 7 g. sodium 4-(allylamino)phenylacetate in 100 ml. ethanol is added 4.7 g. ethyl 2-tosyloxypropionate. After 17 hours at reflux, the cooled solution is diluted with an equal volume of water and the resultant precipitate is filtered. After washing with cold ethanol and drying, the product is crystallized from acetonitrile to yield 1-(ethoxycarbonyl)ethyl 4-(allylamino)phenylacetate as colorless crystals.

reactant | sodium 4-(allylamino)phenylacetate | C(C=C)NC1=CC=C(C=C1)CC(=O)[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | ethyl 2-tosyloxypropionate | S(=O)(=O)(C1=CC=C(C)C=C1)OC(C(=O)OCC)C | C12H16O5S
solvent | water | O | H2O
product | 1-(ethoxycarbonyl)ethyl 4-(allylamino)phenylacetate | C(C=C)NC1=CC=C(C=C1)CC(=O)OC(C)C(=O)OCC | C16H21NO4
